US04732993
Preparation of Diethyl Aluminum 2,2,2-Trifluoroethoxide
Under a nitrogen atmosphere, 81.36 g (0.71 mole) of triethylaluminum was placed in a flask immersed in a chilled oil bath (-20° C.). In an addition funnel there was placed 77 g (0.77 mole) of 2,2,2-trifluoroethanol. Temperature of the reaction mixture was permitted to rise to 10° C., at which point addition of the trifluoroethanol commenced. The temperature was slowly raised by increasing the speed of addition and at the end of the addition of the alcohol was 40° C. The total time consumed was one hour.

reactant | triethylaluminum | 0.71 mole, 81.36 g | C(C)[Al](CC)CC
reactant | 2,2,2-trifluoroethanol | 0.77 mole, 77 g | FC(CO)(F)F | C2H3F3O
reactant | trifluoroethanol | C(C(F)(F)F)O | C2H3F3O
product | Diethyl Aluminum 2,2,2-Trifluoroethoxide | FC(C[O-])(F)F.C(C)[Al+]CC | InChI=1S/C2H2F3O.2C2H5.Al/c3-2(4,5)1-6;2*1-2;/h1H2;2*1H2,2H3;/q-1;;;+1
